// RC low-pass filter DC + AC testbench (no PDK needed — pure analogLib)
// Circuit: VDD → R0 (1K) → VO → C1 (50f) → GND
//          VDD → C0 (50f) → GND (reference cap)
// AC response: first-order RC roll-off at f_3dB = 1/(2*pi*R*C)
simulator lang=spectre
global 0
parameters VDC=1

C1 (VO GND) capacitor c=50f
C0 (VDD GND) capacitor c=50f
V58 (GND 0) vsource dc=0 type=dc
V57 (VDD 0) vsource dc=VDC mag=1 type=dc
R0 (VDD VO) resistor r=1K

simulatorOptions options psfversion="1.4.0" reltol=1e-4 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf

dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
ac ac start=1M stop=10G annotate=status

save C0:1
saveOptions options save=allpub
